US09283555B2
N1(thiazol-2-yl)benzamidine (Amidine XV)
Procedure as described for Amidine I using the following amounts and modifications: 5.01 g of 2-aminothiazole (50.0 mmol), 26.0 mL of 2.0 M butyllithium (52.0 mmol), 5.20 mL of benzonitrile (51.0 mmol). After refluxing overnight, the solution was green-brown. Addition of water yielded a red-brown solution with suspended solid. Solution was taken to dryness yielding 6.66 g (66%) of yellow-orange material. 1H NMR (400 MHz, C6D6): 10.1 (br, 1H), 7.68 (d, 2H), 7.34 (d, 1H), 7.04 (m, 3 H), 6.40 (d, 1H), 5.35 (br, 1H), 2.26 (s, 6H).

reactant | 2-aminothiazole | 50.0 mmol, 5.01 g | NC=1SC=CN1 | C3H4N2S
reactant | butyllithium | 52.0 mmol, 2.0 M, 26.0 mL | C(CCC)[Li]
reactant | benzonitrile | 51.0 mmol, 5.20 mL | C(C1=CC=CC=C1)#N | C7H5N
solvent | water | O | H2O
product | N1(thiazol-2-yl)benzamidine | 6.66 g, 66% | S1C(=NC=C1)NC(C1=CC=CC=C1)=N | C10H9N3S
